US08071600B2
p-Toluenesulfonyl chloride (4.39 g, 23 mmol) was added to a pyridine solution (30 ml) of 4-(4-methoxyphenyl)piperidine (4.0 g, 21 mmol) and the mixture was stirred at room temperature overnight. Water was added to the solution mixture, which was then extracted with ethyl acetate. The organic phase was washed with hydrochloric acid and water, dried over magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1). The purified product was concentrated to dryness under reduced pressure to obtain 4-(4-methoxyphenyl)-1-(toluene-4-sulfonyl)piperidine (4.8 g) as white powder.

reactant | p-Toluenesulfonyl chloride | 23 mmol, 4.39 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-(4-methoxyphenyl)piperidine | 21 mmol, 4.0 g | COC1=CC=C(C=C1)C1CCNCC1 | C12H17NO
solvent | Water | O | H2O
product | 4-(4-methoxyphenyl)-1-(toluene-4-sulfonyl)piperidine | 4.8 g | COC1=CC=C(C=C1)C1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C19H23NO3S
